Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / thimerosal / Penicillins / 
tape / latex
 
Attending: ___
 
Chief Complaint:
 HA, lightheadedness, episodes of slurred speech
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ with PMHx of DCIS (Dx ___ who only took tamoxifen for a 
couple of years then stopped taking it because of side effects. 
Two weeks ago, she was at dinner with a friend and had a couple 
sips of wine (adamantly denies being drunk). She had a minute of 
word finding issues as well as word slurring. ___ friend ___ 
notice but it was a loud bar. She dismissed it as nothing and 
didn't seek any medical attention. On ___ she developed a 
bi-temporal ___ constant pressure headache with the sensation 
of pressure behind ___ right eye. She has been under a lot of 
stress with the recent hospitalization of ___ mother for a 
vertebral dissection. She is unsure if stress contributed to ___ 
headache and feels that she is hypersensitive to ___ own 
symptoms because of ___ mother's symptoms. She does not 
typically have headaches. She developed some occipital pain and 
neck stiffness so she went to a masseuse on ___ and ___ 
and had several deep neck manipulations during the massages. 
After these massages, she had intermittent feelings of 
lightheadedness (not room spinning vertigo), left sided numbness 
(especially ___ face).  She was worried that these episodes may 
represent strokes so she took aspirin ___ yesterday and today. 
This morning, she made an appointment with the PCP to evaluate 
___ headache. After making the appointment, while at the bank, 
she had an episode where it was very difficult for ___ to sign 
___ name on ___ check. She became very concerned. This resolved in 
a minute. When she told this to ___ PCP, he sent ___ to the ED 
for evaluation.  While in the ED she complains of intermittent 
episodes of mental slowing. Neurology was consulted for 
recommendations on workup and management of these episodes.   

On neuro ROS, (+) episode of slurred speech and work finding 
difficulty two weeks ago, ___ constant pressure headache 
for four days with pressure behind the right eye, (+) 
lightheadedness with head movement, (+) left sided numbness. The 
pt denies diplopia, dysarthria, dysphagia, vertigo, tinnitus or 
hearing difficulty. No bowel or bladder incontinence or 
retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
LATEX ALLERGY- RASH                                             
L4-5 DISC HERNIATION- PERSISTS FROM ___                        
DCIS - ___ AD ___- STOPPED TAMOXIFEN ON ___ OWN               
COLONIC ADENOMA                                                 
ALLERGIC RHINITIS                                               
ASTHMA                                                          
VITAMIN D INSUFFICIENCY                                         
OSTEOPENIA                                                      
LT ARM PAIN - ___ 
PARTIAL MASTECTOMY FOR DCIS- ___                               
OOPHORECTOMY -RT ___ DUE TO TORSION                            
CYST REMOVAL - ___                                             
LEFT KNEE LATERAL ___  
 
Social History:
Country of Origin:  usa                                         
Marital status:     Single                                      
Children:           No                                          
Work: ___
Multiple partners:  ___                                      
___ activity:    Past                                        
Sexual orientation: Male                                        
Sexual Abuse:       Denies                                      
Domestic violence:  Denies                                      
Contraception:      Condoms - Male                              
Tobacco use:        Never smoker                                
drinks per week:    1                                           
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):    
 
Family History:
Mother                  DIABETES MELLITUS                       
                        HYPERTENSION                            
Father                  DIABETES MELLITUS                       
                        HYPERTENSION                            
Sister              ___  BREAST CANCER        Maternal aunt in   
                                             ___ ___            
Comments: No early CAD, Alzheimer's disease or osteoporosis.    

 
Physical Exam:
ADMISSION EXAM:
GENERAL EXAM: 
- Vitals: 98.5 67 146/93 R16 100%RA
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple. No nuchal rigidity
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.
 
NEURO EXAM: 
- Mental Status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Attentive, able to name ___ backward 
without difficulty. Language is fluent with intact repetition 
and comprehension. Normal prosody. There were no paraphasic 
errors. Able to name both high and low frequency objects. Able 
to read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. Able to register 
3 objects and recall ___ at 5 minutes. 
- Cranial Nerves:
In a darkened room, right pupil 3.5mm->2mm, left pupil 5mm->2mm, 
both briskly reactive. VFF to confrontation. EOMI without 
nystagmus. 90% sensation to LT and PP in the right V1,V2,V3. 
Asymmetric smile; both sides activate quickly. Right lid 
slightly lower over ___ than left. Hearing intact to finger-rub 
bilaterally. Palate elevates symmetrically. ___ strength in 
trapezii and SCM bilaterally. Tongue protrudes in midline.
- Motor: Normal bulk and tone throughout. No pronator drift 
bilaterally. 
  Delt Bic Tri WrE FFl FE IP Quad Ham TA ___ 
L  5    ___   ___   5    5  5     5     5  
R  5    ___   ___-  5    5  5     5     5  
- Sensory: intact to light touch. No extinction to DSS.
- DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.
- Coordination: No intention tremor or dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally. No past pointing. 
- Gait: Good initiation. Narrow-based, normal stride and arm 
swing. Able to walk in tandem without difficulty. Romberg 
positive.
===============================================
DISCHARGE EXAM: 
Notable for Right pupil 2-> 1.5, Left pupil 2.5 -> 2; no ptosis; 
decreased LT to 95% on Right face, 90% on Right upper extremity. 

Otherwise nonfocal, Motor ___, Coordination (FNF, HKS intact), 
Gait normal. 
 
Pertinent Results:
IMAGING: 
CTA Head and Neck (___): 
1. Findings suggestive of nonocclusive right carotid bulb focal 
dissection.  
Recommend clinical correlation.  If clinically indicated, 
consider carotid 
ultrasound further evaluation. 
2. No evidence of acute intracranial hemorrhage. 
3. Ectasia of the ascending aorta measuring up to 4.4 cm.  
Recommend clinical 
correlation. 
4. Mild heterogeneity of bilateral thyroid glands with 2 mm 
right thyroid 
gland nodule.  Recommend clinical correlation.  If clinically 
indicated, 
consider dedicated thyroid ultrasound. 
5. Please note MRI of the brain is more sensitive for the 
detection of acute 
infarct. 
6. Partially visualized lungs demonstrates 4 mm right upper lobe 
pulmonary 
nodule.  Recommend clinical correlation and correlation with 
dedicated chest 
imaging. 
  
RECOMMENDATION(S): 
1. Findings suggestive of nonocclusive right carotid bulb focal 
dissection. 
Recommend clinical correlation.  If clinically indicated, 
consider carotid 
ultrasound further evaluation. 
2. Ectasia of the ascending aorta measuring up to 4.4 cm.  
Recommend clinical 
correlation. 
3. Mild heterogeneity of bilateral thyroid glands with 2 mm 
right thyroid 
gland nodule. Recommend clinical correlation.  If clinically 
indicated, 
consider dedicated thyroid ultrasound. 
4. Partially visualized lungs demonstrates 4 mm right upper lobe 
pulmonary 
nodule. Recommend clinical correlation and correlation with 
dedicated chest 
imaging. 

 
Brief Hospital Course:
She was admitted for concern of carotid artery dissection. 
However history is not consistent (consists of 1 min of 
difficultly gathering thoughts; lightheadedness; and 
intermittent decreased LT on left side) with dissection and ___ 
clinical Exam was nonfocal except for physiological anisocoria 
(R 2->1.5, L 2.5 to 2) and 90% decreased Lt on RUE and R face. 
MRI showed no acute stroke, MRA images were reviewed on rounds 
and appeared to be inconclusive. Imaging seems more consistent 
with artifact than with dissections, but patient was started on 
aspirin 81 mg daily and Patient should have repeat CTA in ___s follow up with neurology. In terms of stroke 
workup A1c 5.8, LDL pending at time of discharge. 

Transitional Issues: 
- Repeat CTA in ___ weeks
- outpatient PCP and neurology followup 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN Shortness of Breath 
2. Cyclobenzaprine 10 mg PO TID:PRN Back Spasm 
3. TraMADOL (Ultram) 50 mg PO Q4H:PRN Pain 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN Shortness of Breath 
3. Cyclobenzaprine 10 mg PO TID:PRN Back Spasm 
4. TraMADOL (Ultram) 50 mg PO Q4H:PRN Pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sensory Changes of Unknown Etiology, likely cervical muscle 
tension vs. cervical radiculopathy. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted for concern of carotid dissection. However, on 
review of your imaging and of your symptoms, you do not have a 
carotid artery dissection. It is likely an artifact on imaging. 
We recommend you continue aspirin for primary prevention of 
stroke and to have repeat imaging in ___ weeks. 

There were no other changes to your home medications. Please 
follow up with neurology after your repeat brain imaging. 

Your symptoms of sensory changes are likely due to muscular neck 
tension or cervical radiculopathy. 

Sincerely, 
Your ___ Neurology Team 
 
Followup Instructions:
___